US07309721B2
Step A: 1-Bromo-3-methoxy-5-methyl-4-octyloxybenzene
A solution of 5.89 g (27 mmol) of 1-bromo-4-hydroxy-3-methoxy-5-methylbenzene (Syn. Lett. 1997, 1351-1352) in 100 mL of acetonitrile was treated with 5.33 g (38.5 mmol) of powdered K2CO3 and 5.75 mL (31.8 mmol) of 1-iodooctane. After stirring at 85° C. for 19 h, the reaction was cooled and concentrated. The residue was dissolved in 100 mL of H2O and extracted with 100 mL of Et2O. After separating phases, the organic layer was washed with 100 mL of 10% Na2S2O3, dried over MgSO4 and concentrated. The residue was purified on a Biotage 40L column using a gradient of hexane, 99/1 v/v hexane/EtOAc and 98/2 v/v hexane/EtOAc to afford 0.43 g of the title compound as a colorless oil. Several mixed column fractions were rechromatographed to yield an additional 703 mg of the title compound. RF: 0.63 (19/1 v/v hexane/EtOAc); 1H-NMR (500 MHz) δ 0.93 (t, J=6.8, 3H), 1.33-1.39 (m, 8H), 1.46-1.52 (m, 2H), 1.75-1.81 (m, 2H), 2.27 (s, 3H), 3.85 (s, 3H), 3.91 (t, J=6.6, 2H), 6.90 (d, J=2.3, 11H), 6.95 (d, J=2.3, 11H).

reactant | 1-bromo-4-hydroxy-3-methoxy-5-methylbenzene | 27 mmol, 5.89 g | BrC1=CC(=C(C(=C1)C)O)OC | C8H9BrO2
reactant | K2CO3 | 38.5 mmol, 5.33 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-iodooctane | 31.8 mmol, 5.75 mL | ICCCCCCCC | C8H17I
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 1-Bromo-3-methoxy-5-methyl-4-octyloxybenzene | 0.43 g | BrC1=CC(=C(C(=C1)C)OCCCCCCCC)OC | C16H25BrO2
